US07488747B2
Synthesis of 4-(3-Cyclopentylpropionyl)-1H-pyrrole-2-carboxylic acid ethyl ester (74)
Ethylpyrrole-2-carboxylate (1.8593 g, 13.36 mmol) in a minimal amount of dichloroethane was added to an ice cooled stirring mixture of aluminum chloride (3.5756 g, 26.82 mmol) and 3-cyclopentylpropionyl chloride (4.1 mL, 26.59 mmol) in dichloroethane (20 mL, 0.66 M) under N2. The ice bath was removed, and the reaction was stirred at room temperature for 4 h. 18.18 g (2.6 mMol/g) Polyamine resin HL (200-400 mesh) and dichloroethane (20 mL) were added, and the reaction was stirred for ˜60 min. The reaction was then filtered through a glass-fritted funnel directly into ice water. The resin was rinsed with CH2Cl2, then the organic layers were removed, dried with Na2SO4, filtered and concentrated. The crude product was recrystallized from Hexanes/Ethyl acetate. The crude was dissolved in a minimal amount of hot EtOAc, then allowed to slowly cool to room temperature. When no product crystallized, a small amount of hexanes was pipetted down the sides of the flask. Pure crystals of desired product (2.3068 g, 65.6%) were obtained after sitting overnight. 1H (CDCl3, 400 MHz): δ 10.04 (1H, broad s), 7.55 (1H, s), 7.29 (1H, s), 4.34 (2H, q, J=7.1 Hz), 2.77 (2H, t, J=7.6 Hz), 1.85-1.67 (5H, m), 1.64-1.46 (4H, m), 1.36 (3H, t, J=7.1 Hz), 1.78-1.06 (2H, m) ppm. 13C (CDCl3, 100 MHz): δ 196.38, 161.09, 127.03, 126.14, 124.05, 114.76, 60.91, 39.82, 39.06, 32.53, 30.82, 25.11, 14.31 ppm. DEPT (CDCl3, 100 MHz): CH3 carbons: 14.31; CH2 carbons: 60.91, 39.06, 32.53, 30.82, 25.1 1; CH carbons: 126.14, 114.76, 39.82 ppm. HPLC: 10.800 min.

reactant | Ethylpyrrole-2-carboxylate | 13.36 mmol, 1.8593 g | C(C)OC(=O)C=1NC=CC1 | C7H9NO2
reactant | aluminum chloride | 26.82 mmol, 3.5756 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-cyclopentylpropionyl chloride | 26.59 mmol, 4.1 mL | C1(CCCC1)CCC(=O)Cl | C8H13ClO
solvent | dichloroethane | 0.66 M, 20 mL | ClC(C)Cl | C2H4Cl2
product | 4-(3-Cyclopentylpropionyl)-1H-pyrrole-2-carboxylic acid ethyl ester | 2.3068 g, 65.6% | C(C)OC(=O)C=1NC=C(C1)C(CCC1CCCC1)=O | C15H21NO3
